US05171851
Preparation of 5-(2-methylimidazol-1-yl)-2-nitrobenzylalcohol
To a solution of 5-(2-methylimidazol-1-yl)-2-nitrobenzaldehyde (349 mg) and methanol (5.0 ml) was added slowly sodium borohydride (114 mg) at 0° C. and the mixture was stirred at room temperature for 4 hours. Methanol was distilled at reduced pressure to give a residue. Water was added to the residue and the mixture was stirred at room temperature for 30 minutes, filtered and dried to give 360 mg (100%) of the title compound.

reactant | 5-(2-methylimidazol-1-yl)-2-nitrobenzaldehyde | 349 mg | CC=1N(C=CN1)C=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C11H9N3O3
reactant | methanol | 5.0 ml | CO | CH4O
reactant | sodium borohydride | 114 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | 5-(2-methylimidazol-1-yl)-2-nitrobenzylalcohol | 360 mg, 100% | CC=1N(C=CN1)C=1C=CC(=C(CO)C1)[N+](=O)[O-] | C11H11N3O3
